* Z:\home\chris\Code\Pierre-IGGDriver\sim\simulation.asc
V1 N001 0 240
R1 N001 N002 220k
R2 N001 P001 1k
R3 N007 N006 10k
R4 VNeon N004 200k
Q1 N001 N002 N003 0 FMMTA42
C1 N004 N003 1n V=500
D1 N003 N005 BAS21HY
D2 P001 N004 BAS21HY
Q2 N005 N007 0 0 FMMTA42
XU1 VNeon P002 neonbulb Vstrike=280 Vhold=150 Zon=2K Ihold=350u Tau=100u
V2 N006 0 PULSE(5 0 .1 500n 500n 1u 1ms 5)
R5 P002 0 200k
.model D D
.lib C:\users\chris\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\chris\AppData\Local\LTspice\lib\cmp\standard.bjt
.lib Transistors-greater-than-100V.txt
.tran 0 .2 .09
.lib neonbulb.sub
.backanno
.end
